US09328110B2
Ethyl 4-[(5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]butyrate (64.3 g, 0.198 mol) was mixed with acetonitrile (2 L) and catalytic 10% palladium on carbon was added. The mixture was placed on a hydrogenator for 72 hours and filtered through a layer of CELITE filter aid. The filtrate was concentrated under reduced pressure to yield 58.2 g of ethyl 4-[(8-amino-5,6-dimethyltetrazolo[1,5-a]pyridin-7-yl)amino]butyrate.

reactant | Ethyl 4-[(5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]butyrate | 0.198 mol, 64.3 g | CC1=C(C(=C(C=2N1N=NN2)[N+](=O)[O-])NCCCC(=O)OCC)C | C13H18N6O4
catalyst | palladium on carbon | [Pd] | Pd
solvent | acetonitrile | 2 L | C(C)#N | C2H3N
product | ethyl 4-[(8-amino-5,6-dimethyltetrazolo[1,5-a]pyridin-7-yl)amino]butyrate | 58.2 g | NC=1C=2N(C(=C(C1NCCCC(=O)OCC)C)C)N=NN2 | C13H20N6O2
